US04678783
To 40 ml of thionyl chloride were added 2.93 g of 1-chloro-5-isoquinolinesulfonic acid as obtained in Example 1 and 0.4 ml of N,N-dimethylformamide. Then, the resulting mixture was refluxed while heating at 80° to 85° C. for 2 hours, followed by removal of the thionyl chloride under reduced pressure. Subsequently, 10 ml of dichloromethane was added to the reaction mixture to precipitate crystals, followed by separation of the crystals by filtration. The crystals thus obtained were washed with 10 ml of dichloromethane, and then dried under reduced pressure to obtain 3.06 g of 1-chloro-5-isoquinolinesulfonyl chloride hydrochloride. The compound was analyzed to give the following data.

reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-chloro-5-isoquinolinesulfonic acid | 2.93 g | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H6ClNO3S
solvent | N,N-dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
product | 1-chloro-5-isoquinolinesulfonyl chloride hydrochloride | 3.06 g | Cl.ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | InChI=1S/C9H5Cl2NO2S.ClH/c10-9-7-2-1-3-8(15(11,13)14)6(7)4-5-12-9;/h1-5H;1H
